US07838499B2
Preparation of 2-(4-(2-(allyloxy)ethyl)benzyl)-4-bromo-1-chlorobenzene (Intermediate BI)
A mixture of 2-(4-(5-bromo-2-chlorobenzyl)phenyl)ethanol (intermediate BH) (245 mg, 0.75 mmol), allyl bromide (2.6 mL, 3.01 mmol), potassium hydroxide (84 mg, 1.5 mmol) and tetra-n-butylammonium iodide (13.9 mg, 0.037 mmol) was stirred at room temperature for 6 h. Water (1 mL) was added and extracted with chloroform (3×1 mL), washed with brine (1 mL) and dried (Na2SO4), filtered and evaporated. Preparative TLC using 10:1 hexane:EtOAc gave intermediate BI (246 mg, yield 89%). 1H NMR (300 MHz, CDCl3): δ 7.26-7.08 (m, 7H), 5.90 (m, 1H), 5.22 (m, 2H), 4.02 (s, 2H), 3.99 (m, 2H), 3.64 (t, J=6.9, 7.2 Hz, 2H), 2.89 (t, J=6.9, 7.2 Hz, 2H).

reactant | 2-(4-(5-bromo-2-chlorobenzyl)phenyl)ethanol | 0.75 mmol, 245 mg | BrC=1C=CC(=C(CC2=CC=C(C=C2)CCO)C1)Cl | C15H14BrClO
reactant | allyl bromide | 3.01 mmol, 2.6 mL | C(C=C)Br | C3H5Br
reactant | potassium hydroxide | 1.5 mmol, 84 mg | [OH-].[K+]
catalyst | tetra-n-butylammonium iodide | 0.037 mmol, 13.9 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | 1 mL | O | H2O
product | 2-(4-(2-(allyloxy)ethyl)benzyl)-4-bromo-1-chlorobenzene | yield 89% | C(C=C)OCCC1=CC=C(CC2=C(C=CC(=C2)Br)Cl)C=C1 | C18H18BrClO
